* Z:\media\data\CODES\LTspiceWorkspace\LTspice_projects\EMV\kapaz_kopplung.asc
Ck U1 U2 {Ck}
C2 U1 0 {C10}
C3 U2 0 {C20}
Ri N001 U1 {Ri}
Ra U2 0 {Ra}
V§Uq N001 0 0 AC 1
Ca U2 0 {Ca}
.param koppelz=1
+ Ri = 50
+ C10 = 1e-9
+ C20 = 1e-9
+ Ck = 1e-9
+ Ra = 50
+ Ca = 1e-9
* Capacitive coupling - Single conductor
.ac lin 100 1k 1meg
.backanno
.end
