* Z:\media\data\CODES\LTSpice_projects\HV_prog_AS5045\hv_prog_zener.asc
D1 0 N003 BZX84C8V2L
D2 N005 N003 1N750
R1 N001 N003 470R
Q1 N002 N003 N004 0 BC817-40
R2 N001 N002 10
R3 N004 0 6.8k
V1 N001 0 14.7V
Q2 N005 N007 0 0 BC817-40
R4 N007 N001 6.8k
V2 N011 0 PULSE(0 5 0 10n 10n 100u 400u)
V3 N006 0 PULSE(0 5 2m 10n 10n 10m)
Q4 N009 N008 N004 0 BC807-25
R6 N009 0 50
R5 N008 N004 10k
R7 N008 P001 1k
Q3 P001 N010 0 0 BC817-40
R8 N011 N010 1k
R9 N006 N007 1k
.model D D
.lib C:\Program Files (x86)\LTC_orig\LTspiceIV_4.18\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\LTC_orig\LTspiceIV_4.18\lib\cmp\standard.bjt
.tran 5m
.backanno
.end
