* Z:\media\data\CODES\LTSpice_projects\IL300_F-107\Draft1.asc
C1 N002 0 220n
R1 N002 N001 2.22meg
V1 N001 0 PULSE(0 5 0 10p 10p 500m 1)
.tran 2
.backanno
.end
