* Z:\media\data\CODES\LTSpice_projects\IL300_F-107\IL300_F-107_12V+npn_VBAT_27-05-13.asc
R4 A2 0 33k
V5 12V 0 PWL(1n 12 14m 7 18m 14 23m 12) Rser=1m
V6 V_Sensor 0 PULSE(7 15 0 10m 10m 10n 0 100)
R5 ctrl1 0 33k
R6 N003 N002 100
V7 N001 0 5v Rser=10m
XU5 A2 imp2 N001 0 imp2 OPA2340
R8 V_Sensor in 10k
R10 add N004 100k
R11 N004 0 100k
R12 N009 imp1 100k
R13 N009 N012 100k
V8 N012 0 PULSE(0 1.25 0 100u) Rser=1m
XU9 N011 N008 N001 0 diff OPA2340
R15 N008 diff 10k
R16 N007 N008 10k
R17 imp2 N011 10k
R18 N011 0 10k
V9 N007 0 1.2 Rser=10m
XU10 N006 0 ctrl1 12V A2 N001 IL300 IL300
R20 diff 0 10k
XU1 add ctrl1 12V 0 N002 LM358
V1 5V 0 5V
C1 N002 ctrl1 100p
XU2 N009 N004 12V 0 add LM358
XU3 in N010 12V 0 imp1 LM358
R1 VADC diff 1k
C2 VADC 0 10n
Q1 5V N003 N005 0 BC547B
R2 N005 N006 100
R3 imp1 N010 1
R7 0 in 3.9k
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\LTC_orig\LTspiceIV_4.18\lib\cmp\standard.bjt
* PULSE(0 5 0 10m 10m 10n 0 100)
.tran 20m startup
.include opa2340.mod
.include LM358.mod
.lib IL300.sub
.backanno
.end
