* Z:\media\data\CODES\LTSpice_projects\LTC6992_PWM_temperature\LTC6992_PWM_temperature.asc
XU1 N002 0 N004 N005 N001 N003 LTC6992-2
V1 N002 0 PULSE(0 1 0 5m 5m 1m)
V2 N001 0 5
R1 N004 0 316k
R2 N005 0 18.2k
R3 N001 N005 97.6k
R4 N003 0 10k
.tran 10m
.lib LTC6992-2.sub
.backanno
.end
