* Z:\media\data\CODES\LTSpice_projects\LockIn_Verstärker\Draft5.asc
V1 VDD 0 9
V2 0 VSS 9
R1 N001 in 5k
R2 out N001 8k
R3 N002 0 2.5k
V3 in P001 0
V4 P001 0 SINE(0 1 100)
XU1 N002 N001 VDD VSS out level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
.tran 100m
.lib UniversalOpamps2.sub
.backanno
.end
