*$
* PART NUMBER:NJM2904
* MANUFACTURER: NEW JAPAN RADIO
* All Rights Reserved Copyright (c) Bee Technologies Inc. 2007
.Subckt NJM2904 OUT1 -IN1 +IN1 V- +IN2 -IN2 OUT2 V+
X_U1     +IN1 -IN1 V+ V- OUT1 NJM2904_SUB
X_U2     +IN2 -IN2 V+ V- OUT2 NJM2904_SUB
.ends  NJM2904
.subckt NJM2904_SUB  1 2 3 4 5
  c1   11 12 13.6603E-12
  c2    6  7 29.000E-12
  dc    5 53 dy
  de   54  5 dy
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 100.84E6 -1E3 1E3 100E6 -100E6
  ga    6  0 11 12 47.124E-6
  gcm   0  6 10 99 2.5472E-9
  iee   3 10 dc 15.050E-6
  hlim 90  0 vlim 1K
  q1   11  2 13 qx1
  q2   12  1 14 qx2
  r2    6  9 100.00E3
  rc1   4 11 21.221E3
  rc2   4 12 21.221E3
  re1  13 10 17.714E3
  re2  14 10 17.714E3
  ree  10 99 13.289E6
  ro1   8  5 50
  ro2   7 99 25
  rp    3  4 503.0
  vb    9  0 dc 0
  vc    3 53 dc 2.2879
  ve   54  4 dc .79791
  vlim  7  8 dc 0
  vlp  91  0 dc 20
  vln   0 92 dc 20
.model dx D(Is=800.00E-18)
.model dy D(Is=800.00E-18 Rs=1m Cjo=10p)
.model qx1 PNP(Is=800.00E-18 Bf=333.70)
.model qx2 PNP(Is=870.6645E-18 Bf=276.50)
.ends
*$
